US08703758B2
B) 1-(bromomethyl)-4-(cyclopropylmethoxy)-2-nitrobenzene
To a mixture of 4-(cyclopropylmethoxy)-1-methyl-2-nitrobenzene (66.4 g) and a solution of N-bromosuccinimide (68.4 g) in ethyl acetate (1.0 L) was added 2,2′-azobis(2-methylpropionitrile) (2.63 g) in 5 portions at 90° C. The reaction mixture was stirred at 90° C. overnight. To the reaction mixture were added N-bromosuccinimide (34.2 g) and 2,2′-azobis(2-methylpropionitrile) (1.32 g) at 90° C. The mixture was allowed to cool to room temperature, concentrated under reduced pressure and left standing overnight. The resulting crystals were collected by filtration, washed with methanol, and dried under reduced pressure to give the title compound (49.9 g).

reactant | 4-(cyclopropylmethoxy)-1-methyl-2-nitrobenzene | 66.4 g | C1(CC1)COC1=CC(=C(C=C1)C)[N+](=O)[O-] | C11H13NO3
reactant | N-bromosuccinimide | 68.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 34.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | ethyl acetate | 1.0 L | C(C)(=O)OCC | C4H8O2
catalyst | 2,2′-azobis(2-methylpropionitrile) | 2.63 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
catalyst | 2,2′-azobis(2-methylpropionitrile) | 1.32 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 1-(bromomethyl)-4-(cyclopropylmethoxy)-2-nitrobenzene | 49.9 g | BrCC1=C(C=C(C=C1)OCC1CC1)[N+](=O)[O-] | C11H12BrNO3
